US08703771B2
Preparation of 1-(4-isopropylpiperazin-1-yl)-N-(4-methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-2,3-dihydro-1H-indene-5-carboxamide
N-(4-Methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-1-piperazin-1-yl-2,3-dihydro-1H-indene-5-carboxamide tetrahydrochloride (100 mg, 0.15 mmol) was dissolved in DMF (2 mL), and triethylamine (101 mg, 1 mmol) was added followed by acetone (35 mg, 0.6 mmol). After the solution was stirred for 20 minutes, sodium triacetoxyborohydride (128 mg, 0.6 mmol) was added. The solution obtained was stirred overnight at room temperature and then purified by high performance liquid chromatography at pH=10 to obtain 58 mg (71% yield) of the title compound. MS (M+1)=548.31. 1HNMR (DMSO-d6, ppm): δ 10.14 (s, 1H); 9.26 (s, 1H); 8.98 (s, 1H); 8.67 (d, J=4.8 Hz, 1H); 8.49 (d, J=4.8 Hz, 1H); 8.46 (d, J=8.4 Hz); 8.05 (s, 1H); 7.77 (s, 1H); 7.74 (d, J=8.0 Hz, 1H); 7.51 (dd, J=8.0 & 4.8 Hz, 4.8 Hz, 1H); 7.46 (d, J=8.2 Hz, 1H); 7.41 (d, J=5.2 Hz, 1H); 7.35 (d, J=7.6 Hz, 1H); 7.17 (d, J=8.4 Hz, 1H); 4.30 (t, J=7.0 Hz, 1H); 2.91 (m, 12H); 2.81 (s, 3H); 2.3-2.6 (m, 9H); 2.02 (m, 2H); 0.92 (t, J=6.4 Hz, 6H).

reactant | N-(4-Methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-1-piperazin-1-yl-2,3-dihydro-1H-indene-5-carboxamide tetrahydrochloride | 0.15 mmol, 100 mg | Cl.Cl.Cl.Cl.CC1=C(C=C(C=C1)NC(=O)C=1C=C2CCC(C2=CC1)N1CCNCC1)NC1=NC=CC(=N1)C=1C=NC=CC1
reactant | triethylamine | 1 mmol, 101 mg | C(C)N(CC)CC | C6H15N
reactant | acetone | 0.6 mmol, 35 mg | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 0.6 mmol, 128 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(4-isopropylpiperazin-1-yl)-N-(4-methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-2,3-dihydro-1H-indene-5-carboxamide | 58 mg, 71% yield | C(C)(C)N1CCN(CC1)C1CCC2=CC(=CC=C12)C(=O)NC1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C33H37N7O
